US05364871
A solution of sodium hydroxide (0.8 g) in water (8 ml) was added to a suspension of 4-(6-acetylaminomethylpyridin-2-yl)-2-(3-benzoylthioureido)thiazole (8.0 g) in methanol (80 ml) and the mixture was stirred at 50°-60° C. for 1 hour. Following evaporation in vacuo, the residue was mixed with water and the mixture was adjusted to pH 7.5 with 6N-hydrochloric acid. The mixture was extracted with the mixture of tetrahydrofuran and ethyl acetate and extract layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to give 4-(6-acetylaminomethylpyridin-2-yl)-2-thioureidothiazole (5.44 g).

reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | 4-(6-acetylaminomethylpyridin-2-yl)-2-(3-benzoylthioureido)thiazole | 8.0 g | C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)NC(=S)NC(C1=CC=CC=C1)=O | C19H17N5O2S2
solvent | water | 8 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | 4-(6-acetylaminomethylpyridin-2-yl)-2-thioureidothiazole | 5.44 g | C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)NC(=S)N | C12H13N5OS2
